US06498169B1
Synthesis of 4-[N-(3,5-Dimethoxyphenyl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-3-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride
4-(3,5-Dimethoxyphenylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (148 mg) and 3-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (114 mg) were condensed in the same manner as described in Example 9. Yellow syrup obtained was converted to a trihydrochloroide to give the title compound as yellow powder.

reactant | 4-(3,5-Dimethoxyphenylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 148 mg | COC=1C=C(C=C(C1)OC)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C28H35N3O5
reactant | 3-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 114 mg | ClCC=1C(=NC=CC1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-(3,5-Dimethoxyphenyl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-3-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride | Cl.Cl.Cl.COC=1C=C(C=C(C1)OC)N(CC=1C(=NC=CC1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C43H50N4O8.3ClH/c1-48-34-23-33(24-35(25-34)49-2)47(27-29-10-9-14-45-41(29)31-21-39(52-5)43(55-8)40(22-31)53-6)32-12-16-46(17-13-32)26-28-11-15-44-36(18-28)30-19-37(50-3)42(54-7)38(20-30)51-4;;;/h9-11,14-15,18-25,32H,12-13,16-17,26-27H2,1-8H3;3*1H
